US05703129
5-[2-[(Butylamino)carbonyl]-3-methylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester (IV)
A THF (2.03 mL) solution containing 5-[2-[(butylamino)carbonyl]-3-methyl-1-butenyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester (236 mg, 0.51 mmol) and rhodium on alumina (24 mg, 10% by wt, 5% Rh content) was placed under a hydrogen atmosphere for 16 h. Additional rhodium on alumina (24 mg) in THF (2.03 mL) was added and the reaction continued under H2 atmosphere for 6 h. The mixture was diluted with CHCl3, filtered and concentrated in vacuo. Silica gel chromatography (3:1 to 3:2 hexane:Et2O gradient) of the concentrate afforded the title compound (171 mg, 70%). MS (ESI) m/e 465 (M-H)-MS (ESI) m/e 467 (M+H)+.

reactant | 5-[2-[(butylamino)carbonyl]-3-methyl-1-butenyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester | 0.51 mmol, 236 mg | C(CCC)NC(=O)C(=CC1C(N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1)C(C)C | C27H48N2O4
solvent | THF | 2.03 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | rhodium on alumina | 24 mg | [Rh] | Rh
catalyst | rhodium on alumina | 24 mg | [Rh] | Rh
solvent | THF | 2.03 mL | C1CCOC1 | C4H8O
product | 5-[2-[(Butylamino)carbonyl]-3-methylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylic acid, 1,1-dimethylethyl ester | 171 mg, 70% | C(CCC)NC(=O)C(CC1C(N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1)C(C)C | C27H50N2O4
